US04983211
3-Hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)-4-(carboethoxy)cyclohex-2-en-1-one
In a 1.0 liter flask was dissolved 2.4 g (0.104 mol) of freshly cut sodium metal in 10 mL of absolute ethanol. To this solution was added a solution of 15.6 g (0.0975 mol) of diethyl malonate in 25 mL of absolute ethanol followed by a solution of 30.2 g (0.0928 mol) of 1-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)but-1-en-3-one in 75 mL of absolute ethanol. The mixture was stirred at ambient temperature for 6 hours and a cream colored solid precipitated from the solution. The mixture was then diluted with 250 mL of water and the solid slowly dissolved therein. To this solution was slowly added 12 mL of concentrated HCl and the desired product crystallized out of the solution. The product was recovered by filtration, thoroughly washed with water and dried in vacuo. The product melted at 161°-163° C., with decomposition; Rf -0.32 (silica gel, 10:90 MeOH:CHCl3), 1H NMR (CDCl3): δ 1.0 (t, 3H, CH3CH2 --), 2.3-3.1 (m, 2H, ring protons), 3.4-3.75 (m, 2H, ring protons), 3.96 (q, 2H, CH3CH2 --), 5.39 (s, 1H, vinyl), 7.10-8.2 (m, 6H, aromatic), 9.0-11.7 (b, 1H, --OH).

reactant | diethyl malonate | 0.0975 mol, 15.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)but-1-en-3-one | 0.0928 mol, 30.2 g | FC(C=1C=C(C(=NC1)OC1=CC=C(C=C1)C=CC(C)=O)F)(F)F | C16H11F4NO2
solvent | sodium | [Na] | Na
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-Hydroxy-5-(4-(5-(trifluoromethyl)-3-fluoro-2-pyridyloxy)phenyl)-4-(carboethoxy)cyclohex-2-en-1-one | OC1=CC(CC(C1C(=O)OCC)C1=CC=C(C=C1)OC1=NC=C(C=C1F)C(F)(F)F)=O | C21H17F4NO5
